US07405331B2
Into a 2-L three-necked flask equipped with a gas blowing tube, a reflux condenser and a stirrer, were charged 269.7 g (2 mol) of 3,5-dimehtylbenzaldehyde and 800 g of o-dichlorobenzene. The temperature of the reaction system was controlled to 5° C. while introducing a nitrogen gas. After bubbling the reaction solution by blowing a nitrogen gas for one hour, the feed of nitrogen was stopped and the feed of chlorine was started. Simultaneously with the feed of chlorine, the irradiation of light from a mercury lamp was started. The photochlorination was completed after 6 h. The quantitative analysis by gas chromatography showed the production of 1.4 mol of 3,5-dimethylbenzoyl chloride (yield: 70%). By vacuum distillation, 236 g (1.4 mol) of 3,5-dimethylbenzoyl chloride was isolated (yield: 68%). The results of total elements analysis by ICP showed that a total content of residual group 3 to group 12 metals was 500 ppm or lower in which the highest was 10 ppm of Fe and the second highest was 30 ppm of Zn.

reactant | 3,5-dimehtylbenzaldehyde | 2 mol, 269.7 g | CC=1C=C(C=O)C=C(C1)C | C9H10O
reactant | o-dichlorobenzene | 800 g | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 3,5-dimethylbenzoyl chloride | 1.4 mol, yield: 70% | CC=1C=C(C(=O)Cl)C=C(C1)C | C9H9ClO
